US04436748
A mixture of 11.8 g of ethyl[ (6,7-dichloro-2-cyclohexylbenzo[b]thien-5-yl)oxy]acetate, 250 ml of 20% sodium hydroxide and 250 ml of 95% ethanol is refluxed for 2 hrs. and allowed to cool. The solvent is removed. The residue is stirred in 350 ml of 6 N hydrochloric acid for 2 hrs. The mixture is filtered and the solid is air-dried, taken up in ether and redried over anhydrous magnesium sulfate and filtered. Recrystallization of the residue from acetone-hexane gives 9.0 g of [(6,7-dichloro-2-cyclohexylbenzo[b]thien-5-yl)oxy]acetic acid, mp 167°-167.5°.

reactant | ethyl[ (6,7-dichloro-2-cyclohexylbenzo[b]thien-5-yl)oxy]acetate | 11.8 g | C(C)OC(COC1=CC2=C(SC(=C2)C2CCCCC2)C(=C1Cl)Cl)=O | C18H20Cl2O3S
reactant | sodium hydroxide | 250 ml | [OH-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | [(6,7-dichloro-2-cyclohexylbenzo[b]thien-5-yl)oxy]acetic acid | 9.0 g | ClC=1C(=CC2=C(SC(=C2)C2CCCCC2)C1Cl)OCC(=O)O | C16H16Cl2O3S
